US08404709B2
3-[(2-Methyl-4-oxo-4H-chromen-8-yl)methylene]pentane-2,4-dione
20 g (106 mmol) of 2-methyl-4-oxo-4H-chromene-8-carbaldehyde, 12 ml (116 mmol) of 2,4-pentanedione, 9.1 ml (159 mmol) of acetic acid and 0.21 ml (2.1 mmol) of piperidine in 400 ml of anhydrous dichloromethane are stirred under reflux with a water trap for 24 h. After cooling, the reaction solution is washed successively with saturated sodium bicarbonate solution and saturated sodium chloride solution. The organic phase is dried over magnesium sulfate and concentrated. The residue is recrystallized from isopropanol. 24.3 g (73% of theory) of the title compound are obtained as a white solid.

reactant | 2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 106 mmol, 20 g | CC=1OC2=C(C=CC=C2C(C1)=O)C=O | C11H8O3
reactant | 2,4-pentanedione | 116 mmol, 12 ml | CC(CC(C)=O)=O | C5H8O2
reactant | acetic acid | 159 mmol, 9.1 ml | C(C)(=O)O | C2H4O2
reactant | piperidine | 2.1 mmol, 0.21 ml | N1CCCCC1 | C5H11N
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 3-[(2-Methyl-4-oxo-4H-chromen-8-yl)methylene]pentane-2,4-dione | CC=1OC2=C(C=CC=C2C(C1)=O)C=C(C(C)=O)C(C)=O | C16H14O4
